R1 ( net69 net273)  R=7.8E4
T2 ( net273 net273 net175 vdd!)  pfet  L=0.68E-6 W=2.96E-6
T3 ( net175 net259 vdd! vdd!)  pfet  L=0.68E-6 W=2.96E-6
T4 ( net259 net259 vdd! vdd!)  pfet  L=0.68E-6 W=2.96E-6
T5 ( net182 net273 net259 vdd!)  pfet  L=0.68E-6 W=2.96E-6
T6 (net4 net300 net300 0) nfet L=9.14E-6 W=7.38E-6
T7 (vdd! net3 net3 0) pfet L=6.88E-6 W=7.08E-6
C8 (net333 net116) C=7.7E-6
T9 ( net144 net144 vdd! vdd!)  pfet  L=4.14E-6 W=8.87E-6
T10 ( net140 net144 vdd! vdd!)  pfet  L=4.14E-6 W=8.87E-6
R11 ( net140 net171)  R=9.9E5
C12 (net310 net227) C=4.3E-14
T13 ( net341 net341 0 0)  nfet  L=8.74E-6 W=2.49E-6
T14 ( net342 net341 0 0)  nfet  L=8.74E-6 W=2.49E-6
R15 ( net342 net202)  R=9.3E0
C16 (net281 0) C=9.8E-8
T17 (net312 net313 net313 0) pfet L=0.51E-6 W=7.54E-6
T18 ( net344 net344 0 0)  nfet  L=4.16E-6 W=7.71E-6
T19 ( net116 net344 0 0)  nfet  L=4.16E-6 W=7.71E-6
R20 ( net116 net52)  R=8.4E2
T21 (net214 net7 net7 0) pfet L=8.92E-6 W=8.89E-6
R22 ( net265 net322)  R=2.1E0
T23 ( net322 net6 vdd! vdd!)  pfet  L=6.85E-6 W=0.43E-6
T24 ( net123 net6 vdd! vdd!)  pfet  L=6.85E-6 W=0.43E-6
T25 ( net341 net322 net123 vdd!)  pfet  L=6.85E-6 W=0.43E-6
T26 (net19 net226 net226 0) nfet L=5.94E-6 W=5.81E-6
C27 (net13 net1) C=4.4E-14
R28 ( net59 net1)  R=5.0E5
T29 ( net1 net122 vdd! vdd!)  pfet  L=2.59E-6 W=3.97E-6
T30 ( net337 net122 vdd! vdd!)  pfet  L=2.59E-6 W=3.97E-6
T31 ( vdd! net1 net337 vdd!)  pfet  L=2.59E-6 W=3.97E-6
C32 (net258 net339) C=2.0E-6
T33 (net24 net43 net43 0) pfet L=8.10E-6 W=7.29E-6
T34 (net239 net80 net80 0) pfet L=4.57E-6 W=5.22E-6
T35 ( net227 net227 0 0)  nfet  L=0.66E-6 W=8.08E-6
T36 ( net110 net227 0 0)  nfet  L=0.66E-6 W=8.08E-6
R37 ( net110 net64)  R=5.7E2
T38 (net202 net91 net91 0) pfet L=4.15E-6 W=0.53E-6
R39 (net76 net132) R=7.2E6
R40 ( net161 net318)  R=6.0E3
T41 ( net318 net148 0 0)  nfet  L=6.03E-6 W=6.80E-6
T42 ( net115 net148 0 0)  nfet  L=6.03E-6 W=6.80E-6
T43 ( net118 net318 net115 0)  nfet  L=6.03E-6 W=6.80E-6
C44 (net239 net66) C=0.9E-13
T45 (net179 net114 net114 0) pfet L=8.22E-6 W=9.67E-6
T46 (net35 vdd! vdd! 0) nfet L=1.45E-6 W=9.70E-6
R47 ( net220 net176)  R=5.1E0
T48 ( net176 net108 0 0)  nfet  L=0.43E-6 W=2.38E-6
T49 ( net204 net108 0 0)  nfet  L=0.43E-6 W=2.38E-6
T50 ( net99 net176 net204 0)  nfet  L=0.43E-6 W=2.38E-6
C51 (net334 net135) C=4.9E-11
R52 (net299 net161) R=8.8E5
R53 ( net288 net57)  R=8.2E3
T54 ( net57 net57 net198 0)  nfet  L=7.80E-6 W=2.88E-6
T55 ( net198 net338 0 0)  nfet  L=7.80E-6 W=2.88E-6
T56 ( net338 net338 0 0)  nfet  L=7.80E-6 W=2.88E-6
T57 ( net333 net57 net338 0)  nfet  L=7.80E-6 W=2.88E-6
C58 (net66 net134) C=3.2E-14
C59 (net220 net132) C=3.1E-9
R60 ( net254 net181)  R=8.8E5
T61 ( net181 net91 vdd! vdd!)  pfet  L=6.05E-6 W=3.27E-6
T62 ( net72 net91 vdd! vdd!)  pfet  L=6.05E-6 W=3.27E-6
T63 ( net73 net181 net72 vdd!)  pfet  L=6.05E-6 W=3.27E-6
C64 (net19 0) C=3.4E-12
R65 (net48 net138) R=7.3E6
T66 (net132 net25 net25 0) nfet L=0.65E-6 W=5.85E-6
R67 (net105 net50) R=1.3E4
T68 (vdd! vdd! vdd! 0) pfet L=0.28E-6 W=4.97E-6
T69 (net234 0 0 0) nfet L=1.27E-6 W=7.72E-6
T70 (net54 net11 net11 0) pfet L=9.50E-6 W=9.40E-6
T71 (0 net265 net265 0) nfet L=3.69E-6 W=1.35E-6
T72 ( net2 net2 vdd! vdd!)  pfet  L=1.71E-6 W=2.54E-6
T73 ( net180 net2 vdd! vdd!)  pfet  L=1.71E-6 W=2.54E-6
R74 ( net180 net289)  R=5.6E2
C75 (net83 net283) C=1.1E-10
R76 ( net243 net265)  R=2.8E3
T77 ( net265 net20 vdd! vdd!)  pfet  L=7.30E-6 W=9.15E-6
T78 ( net293 net20 vdd! vdd!)  pfet  L=7.30E-6 W=9.15E-6
T79 ( net214 net265 net293 vdd!)  pfet  L=7.30E-6 W=9.15E-6
C80 (net97 net279) C=5.8E-8
T81 (net315 net139 net139 0) nfet L=4.52E-6 W=4.43E-6
C82 (net229 net68) C=10.0E-11
T83 (net144 net159 net159 0) pfet L=9.17E-6 W=5.27E-6
R84 (net153 net9) R=7.0E5
T85 ( net347 net347 vdd! vdd!)  pfet  L=0.47E-6 W=0.86E-6
T86 ( net162 net347 vdd! vdd!)  pfet  L=0.47E-6 W=0.86E-6
R87 ( net162 net317)  R=4.0E2
C88 (0 net238) C=0.2E-10
T89 (net23 net239 net239 0) nfet L=5.70E-6 W=3.00E-6
C90 (net82 net253) C=2.2E-9
T91 (net79 net43 net43 0) nfet L=1.88E-6 W=4.35E-6
R92 (net315 net323) R=7.4E6
R93 ( net131 net98)  R=9.0E1
T94 ( net98 net98 net348 0)  nfet  L=2.40E-6 W=9.28E-6
T95 ( net348 net208 0 0)  nfet  L=2.40E-6 W=9.28E-6
T96 ( net208 net208 0 0)  nfet  L=2.40E-6 W=9.28E-6
T97 ( net158 net98 net208 0)  nfet  L=2.40E-6 W=9.28E-6
R98 (net319 net137) R=7.6E1
R99 ( net264 net261)  R=2.8E5
T100 ( net261 net272 vdd! vdd!)  pfet  L=4.70E-6 W=2.48E-6
T101 ( net200 net272 vdd! vdd!)  pfet  L=4.70E-6 W=2.48E-6
T102 ( net270 net261 net200 vdd!)  pfet  L=4.70E-6 W=2.48E-6
R103 (net279 net146) R=8.0E3
C104 (net271 net35) C=1.9E-13
R105 (net277 net218) R=6.5E3
T106 (vdd! net138 net138 0) pfet L=4.23E-6 W=7.41E-6
R107 ( net171 net94)  R=4.5E6
T108 ( net94 net267 vdd! vdd!)  pfet  L=0.16E-6 W=6.61E-6
T109 ( vdd! net267 vdd! vdd!)  pfet  L=0.16E-6 W=6.61E-6
T110 ( 0 net94 net267 vdd!)  pfet  L=0.16E-6 W=6.61E-6
T111 (net238 net289 net289 0) pfet L=0.57E-6 W=4.79E-6
R112 ( net158 net188)  R=1.6E5
T113 ( net188 net157 0 0)  nfet  L=5.77E-6 W=3.97E-6
T114 ( net206 net157 0 0)  nfet  L=5.77E-6 W=3.97E-6
T115 ( vdd! net188 net157 0)  nfet  L=5.77E-6 W=3.97E-6
T116 (net203 net295 net295 0) pfet L=0.53E-6 W=5.17E-6
T117 ( net229 net229 vdd! vdd!)  pfet  L=9.69E-6 W=3.69E-6
T118 ( net312 net229 vdd! vdd!)  pfet  L=9.69E-6 W=3.69E-6
R119 ( net312 net59)  R=7.4E4
T120 (net333 net270 net270 0) nfet L=2.93E-6 W=0.57E-6
R121 (net313 net65) R=6.4E4
R122 ( 0 net32)  R=1.1E2
T123 ( net32 net263 0 0)  nfet  L=5.05E-6 W=6.51E-6
T124 ( net89 net263 0 0)  nfet  L=5.05E-6 W=6.51E-6
T125 ( vdd! net32 net263 0)  nfet  L=5.05E-6 W=6.51E-6
R126 (net136 net279) R=2.2E1
R127 (net34 net150) R=6.4E4
T128 (net224 vdd! vdd! 0) nfet L=0.79E-6 W=3.20E-6
R129 ( net327 net30)  R=4.8E3
T130 ( net30 net30 net58 vdd!)  pfet  L=0.34E-6 W=5.59E-6
T131 ( net58 net237 vdd! vdd!)  pfet  L=0.34E-6 W=5.59E-6
T132 ( net237 net237 vdd! vdd!)  pfet  L=0.34E-6 W=5.59E-6
T133 ( net62 net30 net237 vdd!)  pfet  L=0.34E-6 W=5.59E-6
T134 (net64 net319 net319 0) pfet L=9.00E-6 W=3.44E-6
R135 ( net97 net34)  R=5.6E4
T136 ( net34 net52 vdd! vdd!)  pfet  L=9.10E-6 W=4.97E-6
T137 ( net269 net52 vdd! vdd!)  pfet  L=9.10E-6 W=4.97E-6
T138 ( net86 net34 net269 vdd!)  pfet  L=9.10E-6 W=4.97E-6
C139 (net76 net291) C=3.3E-13
T140 (net51 0 0 0) nfet L=2.53E-6 W=7.72E-6
C141 (net126 net83) C=3.7E-10
T142 (net209 vdd! vdd! 0) nfet L=7.36E-6 W=5.78E-6
T143 (net24 net165 net165 0) pfet L=2.33E-6 W=8.71E-6
T144 ( net185 net185 0 0)  nfet  L=5.11E-6 W=9.18E-6
T145 ( net316 net185 0 0)  nfet  L=5.11E-6 W=9.18E-6
R146 ( net316 net25)  R=2.1E3
R147 (net49 net264) R=9.3E3
R148 ( net289 net161)  R=4.4E4
T149 ( net161 net100 0 0)  nfet  L=2.42E-6 W=4.56E-6
T150 ( net104 net100 0 0)  nfet  L=2.42E-6 W=4.56E-6
T151 ( net18 net161 net104 0)  nfet  L=2.42E-6 W=4.56E-6
T152 (net315 net332 net332 0) nfet L=2.21E-6 W=1.06E-6
T153 (net299 net170 net170 0) nfet L=4.99E-6 W=1.02E-6
T154 (net280 net228 net228 0) nfet L=6.45E-6 W=8.37E-6
T155 (net256 net38 net38 0) pfet L=9.03E-6 W=9.35E-6
R156 ( vdd! net339)  R=6.3E2
T157 ( net339 net339 vdd! vdd!)  pfet  L=3.01E-6 W=6.57E-6
T158 ( net256 net339 vdd! vdd!)  pfet  L=3.01E-6 W=6.57E-6
C159 (net320 net215) C=1.3E-6
R160 ( net76 net35)  R=4.6E0
T161 ( net35 net35 vdd! vdd!)  pfet  L=7.31E-6 W=3.76E-6
T162 ( net307 net35 vdd! vdd!)  pfet  L=7.31E-6 W=3.76E-6
C163 (net125 net324) C=6.0E-10
T164 (0 net305 net305 0) pfet L=4.80E-6 W=1.66E-6
R165 ( net120 net99)  R=4.3E4
T166 ( net99 net289 0 0)  nfet  L=6.80E-6 W=4.97E-6
T167 ( net344 net289 0 0)  nfet  L=6.80E-6 W=4.97E-6
T168 ( vdd! net99 net289 0)  nfet  L=6.80E-6 W=4.97E-6
T169 (net136 vdd! vdd! 0) nfet L=0.60E-6 W=3.71E-6
T170 ( net287 net287 0 0)  nfet  L=4.10E-6 W=9.30E-6
T171 ( net238 net287 0 0)  nfet  L=4.10E-6 W=9.30E-6
R172 ( net238 net41)  R=7.9E1
T173 (vdd! net118 net118 0) pfet L=5.41E-6 W=0.78E-6
R174 ( net305 net192)  R=3.7E2
T175 ( net192 net75 0 0)  nfet  L=6.01E-6 W=4.25E-6
T176 ( net282 net75 0 0)  nfet  L=6.01E-6 W=4.25E-6
T177 ( vdd! net192 net75 0)  nfet  L=6.01E-6 W=4.25E-6
C178 (net22 net252) C=5.6E-6
T179 (net28 net290 net290 0) pfet L=9.76E-6 W=3.00E-6

