T1 (net284 net184 net184 0) pfet L=6.43E-6 W=1.17E-6
R2 ( net85 net238)  R=8.7E3
T3 ( net238 net238 vdd! vdd!)  pfet  L=2.72E-6 W=5.54E-6
T4 ( net301 net238 vdd! vdd!)  pfet  L=2.72E-6 W=5.54E-6
R5 (vdd! net88) R=0.8E0
C6 (net322 net118) C=9.4E-14
R7 (net58 net128) R=9.8E3
R8 ( net246 net253)  R=0.2E0
T9 ( net253 net311 vdd! vdd!)  pfet  L=8.82E-6 W=1.90E-6
T10 ( net268 net311 vdd! vdd!)  pfet  L=8.82E-6 W=1.90E-6
T11 ( 0 net253 net268 vdd!)  pfet  L=8.82E-6 W=1.90E-6
T12 (net180 0 0 0) nfet L=0.46E-6 W=4.61E-6
R13 ( net94 net184)  R=8.1E6
T14 ( net184 net220 vdd! vdd!)  pfet  L=2.79E-6 W=3.20E-6
T15 ( vdd! net220 vdd! vdd!)  pfet  L=2.79E-6 W=3.20E-6
T16 ( 0 net184 net220 vdd!)  pfet  L=2.79E-6 W=3.20E-6
T17 (0 0 0 0) nfet L=4.59E-6 W=4.27E-6
R18 ( net61 net19)  R=9.6E6
T19 ( net19 net166 0 0)  nfet  L=5.05E-6 W=3.57E-6
T20 ( net27 net166 0 0)  nfet  L=5.05E-6 W=3.57E-6
T21 ( vdd! net19 net166 0)  nfet  L=5.05E-6 W=3.57E-6
T22 (net87 net273 net273 0) nfet L=1.65E-6 W=2.50E-6
C23 (vdd! net99) C=2.4E-13
R24 ( net183 net191)  R=5.3E1
T25 ( net191 net191 net53 vdd!)  pfet  L=0.40E-6 W=1.97E-6
T26 ( net53 net64 vdd! vdd!)  pfet  L=0.40E-6 W=1.97E-6
T27 ( net64 net64 vdd! vdd!)  pfet  L=0.40E-6 W=1.97E-6
T28 ( net279 net191 net64 vdd!)  pfet  L=0.40E-6 W=1.97E-6
R29 (0 net99) R=1.0E5
T30 ( net302 net302 vdd! vdd!)  pfet  L=7.93E-6 W=4.60E-6
T31 ( net256 net302 vdd! vdd!)  pfet  L=7.93E-6 W=4.60E-6
R32 ( net256 net135)  R=0.5E5
T33 (net107 net47 net47 0) pfet L=2.64E-6 W=5.31E-6
R34 ( net96 net181)  R=8.9E4
T35 ( net181 net181 net144 0)  nfet  L=4.45E-6 W=9.48E-6
T36 ( net144 net154 0 0)  nfet  L=4.45E-6 W=9.48E-6
T37 ( net154 net154 0 0)  nfet  L=4.45E-6 W=9.48E-6
T38 ( net90 net181 net154 0)  nfet  L=4.45E-6 W=9.48E-6
C39 (net51 net100) C=3.0E-8
T40 (net16 net123 net123 0) nfet L=2.71E-6 W=0.96E-6
R41 (net87 net18) R=2.7E0
R42 (net177 net176) R=2.9E6
T43 (net215 net312 net312 0) nfet L=3.35E-6 W=5.75E-6
R44 (net201 net243) R=6.6E2
R45 (net171 net170) R=8.8E2
R46 (net222 net283) R=8.8E3
R47 (net258 net171) R=3.8E4
C48 (net117 net156) C=6.2E-10
T49 ( vdd! vdd! vdd! vdd!)  pfet  L=1.14E-6 W=7.46E-6
T50 ( net286 vdd! vdd! vdd!)  pfet  L=1.14E-6 W=7.46E-6
R51 ( net286 net304)  R=4.5E0
R52 (net275 net295) R=8.0E2
T53 (net212 net263 net263 0) pfet L=4.60E-6 W=2.48E-6
R54 ( net82 net294)  R=3.8E3
T55 ( net294 net75 0 0)  nfet  L=5.17E-6 W=7.16E-6
T56 ( net150 net75 0 0)  nfet  L=5.17E-6 W=7.16E-6
T57 ( net196 net294 net150 0)  nfet  L=5.17E-6 W=7.16E-6
R58 (net223 net97) R=0.5E5
T59 (net134 net162 net162 0) pfet L=9.33E-6 W=3.58E-6
T60 (net231 net77 net77 0) nfet L=7.40E-6 W=4.43E-6
C61 (net88 net46) C=0.5E-5
T62 (net240 net178 net178 0) nfet L=5.61E-6 W=1.52E-6
R63 ( 0 net269)  R=8.5E2
T64 ( net269 net269 net225 0)  nfet  L=9.49E-6 W=3.19E-6
T65 ( net225 net266 0 0)  nfet  L=9.49E-6 W=3.19E-6
T66 ( net266 net266 0 0)  nfet  L=9.49E-6 W=3.19E-6
T67 ( net237 net269 net266 0)  nfet  L=9.49E-6 W=3.19E-6
C68 (net216 net40) C=6.8E-9
R69 ( net323 net218)  R=3.0E6
T70 ( net218 net293 0 0)  nfet  L=8.18E-6 W=1.90E-6
T71 ( net48 net293 0 0)  nfet  L=8.18E-6 W=1.90E-6
T72 ( vdd! net218 net293 0)  nfet  L=8.18E-6 W=1.90E-6
R73 (net161 net265) R=5.6E5
R74 ( 0 net260)  R=1.9E5
T75 ( net260 net260 net160 vdd!)  pfet  L=4.53E-6 W=9.31E-6
T76 ( net160 net142 vdd! vdd!)  pfet  L=4.53E-6 W=9.31E-6
T77 ( net142 net142 vdd! vdd!)  pfet  L=4.53E-6 W=9.31E-6
T78 ( net17 net260 net142 vdd!)  pfet  L=4.53E-6 W=9.31E-6
T79 (net119 net232 net232 0) nfet L=0.30E-6 W=3.03E-6
R80 (net171 net240) R=1.8E6
T81 ( net34 net34 vdd! vdd!)  pfet  L=1.58E-6 W=2.74E-6
T82 ( net37 net34 vdd! vdd!)  pfet  L=1.58E-6 W=2.74E-6
R83 ( net37 net76)  R=1.8E4
C84 (net39 net173) C=6.0E-8
R85 (net5 net173) R=6.6E6
R86 ( net1 net167)  R=7.4E4
T87 ( net167 net231 0 0)  nfet  L=8.54E-6 W=4.05E-6
T88 ( net35 net231 0 0)  nfet  L=8.54E-6 W=4.05E-6
T89 ( net207 net167 net35 0)  nfet  L=8.54E-6 W=4.05E-6
R90 (net143 net255) R=4.6E4
R91 ( net179 net172)  R=3.5E0
T92 ( net172 net172 vdd! vdd!)  pfet  L=2.31E-6 W=5.01E-6
T93 ( net28 net172 vdd! vdd!)  pfet  L=2.31E-6 W=5.01E-6
C94 (net320 net299) C=4.3E-5
R95 ( vdd! net20)  R=9.6E6
T96 ( net20 net284 0 0)  nfet  L=9.16E-6 W=6.98E-6
T97 ( net140 net284 0 0)  nfet  L=9.16E-6 W=6.98E-6
T98 ( vdd! net20 net284 0)  nfet  L=9.16E-6 W=6.98E-6
C99 (net96 net77) C=6.3E-8
T100 (net137 net123 net123 0) nfet L=8.80E-6 W=6.74E-6
R101 ( net298 net297)  R=1.4E1
T102 ( net297 net297 net104 vdd!)  pfet  L=2.00E-6 W=5.51E-6
T103 ( net104 net271 vdd! vdd!)  pfet  L=2.00E-6 W=5.51E-6
T104 ( net271 net271 vdd! vdd!)  pfet  L=2.00E-6 W=5.51E-6
T105 ( net140 net297 net271 vdd!)  pfet  L=2.00E-6 W=5.51E-6
T106 (net147 0 0 0) nfet L=5.04E-6 W=5.74E-6
T107 (net187 net153 net153 0) pfet L=8.66E-6 W=2.44E-6
T108 ( net182 net182 0 0)  nfet  L=3.17E-6 W=8.59E-6
T109 ( net227 net182 0 0)  nfet  L=3.17E-6 W=8.59E-6
R110 ( net227 net229)  R=9.8E3
C111 (net274 net122) C=5.0E-9
R112 (net213 vdd!) R=5.4E0
T113 (net314 net212 net212 0) pfet L=1.02E-6 W=3.22E-6
T114 (net219 net3 net3 0) nfet L=6.31E-6 W=9.60E-6
R115 (net312 net200) R=0.7E5
T116 ( net115 net115 0 0)  nfet  L=2.25E-6 W=6.68E-6
T117 ( net56 net115 0 0)  nfet  L=2.25E-6 W=6.68E-6
R118 ( net56 net28)  R=8.0E5
T119 (net196 0 0 0) pfet L=8.52E-6 W=3.34E-6
R120 ( net183 net48)  R=6.9E4
T121 ( net48 net6 0 0)  nfet  L=3.70E-6 W=0.48E-6
T122 ( net254 net6 0 0)  nfet  L=3.70E-6 W=0.48E-6
T123 ( vdd! net48 net6 0)  nfet  L=3.70E-6 W=0.48E-6
T124 (0 net32 net32 0) pfet L=2.45E-6 W=7.39E-6
R125 (net182 vdd!) R=1.5E3
R126 ( net21 net110)  R=0.7E2
T127 ( net110 net165 vdd! vdd!)  pfet  L=9.96E-6 W=4.68E-6
T128 ( net314 net165 vdd! vdd!)  pfet  L=9.96E-6 W=4.68E-6
T129 ( net128 net110 net314 vdd!)  pfet  L=9.96E-6 W=4.68E-6
C130 (net14 net92) C=1.4E-14
R131 (net67 net143) R=5.1E0
R132 ( net196 net152)  R=9.8E3
T133 ( net152 net247 0 0)  nfet  L=9.25E-6 W=3.29E-6
T134 ( net78 net247 0 0)  nfet  L=9.25E-6 W=3.29E-6
T135 ( 0 net152 net78 0)  nfet  L=9.25E-6 W=3.29E-6
R136 (net244 net33) R=7.6E5
T137 (net243 net134 net134 0) pfet L=2.06E-6 W=2.36E-6
C138 (net47 net216) C=1.7E-13
T139 (net130 net182 net182 0) nfet L=0.78E-6 W=6.11E-6
T140 (net182 net241 net241 0) nfet L=3.27E-6 W=4.50E-6
R141 ( net49 net204)  R=2.1E3
T142 ( net204 net204 vdd! vdd!)  pfet  L=3.80E-6 W=8.52E-6
T143 ( net74 net204 vdd! vdd!)  pfet  L=3.80E-6 W=8.52E-6
T144 (net116 net304 net304 0) pfet L=6.20E-6 W=3.93E-6
R145 ( net270 net122)  R=7.8E1
T146 ( net122 net122 net132 0)  nfet  L=0.26E-6 W=7.85E-6
T147 ( net132 net70 0 0)  nfet  L=0.26E-6 W=7.85E-6
T148 ( net70 net70 0 0)  nfet  L=0.26E-6 W=7.85E-6
T149 ( net214 net122 net70 0)  nfet  L=0.26E-6 W=7.85E-6
C150 (net47 net279) C=1.0E-5
R151 ( 0 net123)  R=4.1E5
T152 ( net123 net123 net318 0)  nfet  L=8.92E-6 W=1.33E-6
T153 ( net318 net287 0 0)  nfet  L=8.92E-6 W=1.33E-6
T154 ( net287 net287 0 0)  nfet  L=8.92E-6 W=1.33E-6
T155 ( net316 net123 net287 0)  nfet  L=8.92E-6 W=1.33E-6
T156 (0 net30 net30 0) pfet L=5.84E-6 W=2.27E-6
C157 (net265 net16) C=2.4E-11
R158 ( net72 net323)  R=1.2E6
T159 ( net323 net323 net248 0)  nfet  L=8.12E-6 W=2.44E-6
T160 ( net248 net12 0 0)  nfet  L=8.12E-6 W=2.44E-6
T161 ( net12 net12 0 0)  nfet  L=8.12E-6 W=2.44E-6
T162 ( net183 net323 net12 0)  nfet  L=8.12E-6 W=2.44E-6
C163 (net116 net34) C=5.3E-9
R164 ( net88 net151)  R=6.3E3
T165 ( net151 net151 vdd! vdd!)  pfet  L=3.41E-6 W=7.26E-6
T166 ( net88 net151 vdd! vdd!)  pfet  L=3.41E-6 W=7.26E-6
R167 (net46 net157) R=1.5E6
T168 (net207 net263 net263 0) pfet L=0.75E-6 W=0.74E-6
R169 (net27 net320) R=1.2E0
T170 (net4 net179 net179 0) nfet L=7.11E-6 W=1.55E-6
R171 ( net47 net162)  R=2.9E1
T172 ( net162 net283 0 0)  nfet  L=1.75E-6 W=6.62E-6
T173 ( net320 net283 0 0)  nfet  L=1.75E-6 W=6.62E-6
T174 ( net98 net162 net320 0)  nfet  L=1.75E-6 W=6.62E-6
T175 (net146 net270 net270 0) nfet L=1.49E-6 W=6.41E-6
R176 (net17 vdd!) R=4.0E0
T177 (net186 net300 net300 0) pfet L=4.77E-6 W=8.73E-6
R178 ( net258 net213)  R=9.4E5
T179 ( net213 net213 net234 0)  nfet  L=0.46E-6 W=1.12E-6
T180 ( net234 net275 0 0)  nfet  L=0.46E-6 W=1.12E-6
T181 ( net275 net275 0 0)  nfet  L=0.46E-6 W=1.12E-6
T182 ( net92 net213 net275 0)  nfet  L=0.46E-6 W=1.12E-6
C183 (net125 net299) C=1.8E-12
T184 (net252 net40 net40 0) pfet L=9.05E-6 W=0.49E-6
R185 ( net208 net80)  R=9.7E2
T186 ( net80 net80 vdd! vdd!)  pfet  L=7.87E-6 W=0.48E-6
T187 ( net290 net80 vdd! vdd!)  pfet  L=7.87E-6 W=0.48E-6
T188 (net280 net186 net186 0) nfet L=2.17E-6 W=5.13E-6
R189 ( vdd! net290)  R=5.4E2
T190 ( net290 net84 vdd! vdd!)  pfet  L=6.20E-6 W=8.64E-6
T191 ( net239 net84 vdd! vdd!)  pfet  L=6.20E-6 W=8.64E-6
T192 ( 0 net290 net84 vdd!)  pfet  L=6.20E-6 W=8.64E-6
T193 (net223 net39 net39 0) pfet L=6.48E-6 W=7.52E-6
R194 ( net272 net17)  R=2.9E3
T195 ( net17 net17 net9 vdd!)  pfet  L=6.15E-6 W=7.93E-6
T196 ( net9 net71 vdd! vdd!)  pfet  L=6.15E-6 W=7.93E-6
T197 ( net71 net71 vdd! vdd!)  pfet  L=6.15E-6 W=7.93E-6
T198 ( net240 net17 net71 vdd!)  pfet  L=6.15E-6 W=7.93E-6
C199 (net118 vdd!) C=1.3E-12
T200 ( net301 net301 vdd! vdd!)  pfet  L=7.21E-6 W=8.17E-6
T201 ( net112 net301 vdd! vdd!)  pfet  L=7.21E-6 W=8.17E-6
R202 ( net112 net244)  R=3.2E2
C203 (net117 net243) C=5.7E-13
T204 (net221 net230 net230 0) pfet L=9.10E-6 W=9.04E-6
R205 (net255 net246) R=9.9E5
R206 ( net228 net149)  R=8.1E5
T207 ( net149 net149 vdd! vdd!)  pfet  L=9.89E-6 W=7.69E-6
T208 ( net65 net149 vdd! vdd!)  pfet  L=9.89E-6 W=7.69E-6
R209 (net136 net226) R=8.2E2
R210 ( net46 net109)  R=5.8E1
T211 ( net109 net182 vdd! vdd!)  pfet  L=2.21E-6 W=1.53E-6
T212 ( net177 net182 vdd! vdd!)  pfet  L=2.21E-6 W=1.53E-6
T213 ( 0 net109 net177 vdd!)  pfet  L=2.21E-6 W=1.53E-6
T214 (net285 net285 net285 0) nfet L=0.94E-6 W=1.20E-6
R215 ( net55 net8)  R=4.4E1
T216 ( net8 net8 vdd! vdd!)  pfet  L=6.59E-6 W=9.62E-6
T217 ( net198 net8 vdd! vdd!)  pfet  L=6.59E-6 W=9.62E-6
T218 (net59 net322 net322 0) pfet L=0.14E-6 W=7.12E-6
R219 ( net73 net251)  R=5.2E0
T220 ( net251 net94 0 0)  nfet  L=8.10E-6 W=0.74E-6
T221 ( net207 net94 0 0)  nfet  L=8.10E-6 W=0.74E-6
T222 ( net261 net251 net207 0)  nfet  L=8.10E-6 W=0.74E-6
T223 (vdd! net305 net305 0) pfet L=8.32E-6 W=0.47E-6
R224 ( net22 net279)  R=7.7E5
T225 ( net279 net279 vdd! vdd!)  pfet  L=5.93E-6 W=0.61E-6
T226 ( net146 net279 vdd! vdd!)  pfet  L=5.93E-6 W=0.61E-6
C227 (net138 vdd!) C=9.4E-6
T228 ( net41 net41 vdd! vdd!)  pfet  L=8.06E-6 W=9.86E-6
T229 ( net30 net41 vdd! vdd!)  pfet  L=8.06E-6 W=9.86E-6
R230 ( net30 net257)  R=1.7E5
C231 (net185 net319) C=2.4E-9
T232 (net67 net105 net105 0) nfet L=6.97E-6 W=7.63E-6
T233 ( net74 net74 vdd! vdd!)  pfet  L=8.54E-6 W=7.21E-6
T234 ( net257 net74 vdd! vdd!)  pfet  L=8.54E-6 W=7.21E-6
R235 ( net257 0)  R=8.3E2
T236 (net117 net265 net265 0) pfet L=6.82E-6 W=1.41E-6
R237 ( net60 net170)  R=7.5E6
T238 ( net170 net236 vdd! vdd!)  pfet  L=7.08E-6 W=2.17E-6
T239 ( net90 net236 vdd! vdd!)  pfet  L=7.08E-6 W=2.17E-6
T240 ( net77 net170 net90 vdd!)  pfet  L=7.08E-6 W=2.17E-6
C241 (net59 net259) C=1.8E-14
T242 (net141 net105 net105 0) nfet L=5.57E-6 W=1.78E-6
R243 ( net221 net235)  R=5.7E0
T244 ( net235 net235 net179 0)  nfet  L=2.64E-6 W=4.00E-6
T245 ( net179 net46 0 0)  nfet  L=2.64E-6 W=4.00E-6
T246 ( net46 net46 0 0)  nfet  L=2.64E-6 W=4.00E-6
T247 ( net276 net235 net46 0)  nfet  L=2.64E-6 W=4.00E-6
C248 (net145 net171) C=5.9E-14

