R1 ( net45 net81)  R=5.9E4
T2 ( net81 net249 vdd! vdd!)  pfet  L=6.96E-6 W=1.99E-6
T3 ( net105 net249 vdd! vdd!)  pfet  L=6.96E-6 W=1.99E-6
T4 ( net211 net81 net105 vdd!)  pfet  L=6.96E-6 W=1.99E-6
T5 (net227 net251 net251 0) nfet L=8.82E-6 W=5.54E-6
R6 ( net109 net227)  R=9.3E2
T7 ( net227 net227 net72 0)  nfet  L=0.41E-6 W=1.15E-6
T8 ( net72 net10 0 0)  nfet  L=0.41E-6 W=1.15E-6
T9 ( net10 net10 0 0)  nfet  L=0.41E-6 W=1.15E-6
T10 ( net58 net227 net10 0)  nfet  L=0.41E-6 W=1.15E-6
T11 (net215 net50 net50 0) pfet L=2.28E-6 W=9.42E-6
C12 (net157 net22) C=2.8E-6
R13 ( net146 net35)  R=6.4E3
T14 ( net35 net35 0 0)  nfet  L=1.04E-6 W=0.78E-6
T15 ( net117 net35 0 0)  nfet  L=1.04E-6 W=0.78E-6
T16 (net175 net108 net108 0) pfet L=7.26E-6 W=3.48E-6
R17 ( vdd! net144)  R=6.5E3
T18 ( net144 net195 vdd! vdd!)  pfet  L=6.55E-6 W=7.20E-6
T19 ( net93 net195 vdd! vdd!)  pfet  L=6.55E-6 W=7.20E-6
T20 ( net96 net144 net93 vdd!)  pfet  L=6.55E-6 W=7.20E-6
T21 (net235 net79 net79 0) pfet L=2.29E-6 W=3.47E-6
R22 ( net218 net146)  R=0.3E1
T23 ( net146 net146 vdd! vdd!)  pfet  L=7.40E-6 W=5.12E-6
T24 ( net128 net146 vdd! vdd!)  pfet  L=7.40E-6 W=5.12E-6
C25 (net112 net91) C=3.2E-13
R26 ( net107 net83)  R=6.0E0
T27 ( net83 net83 net142 vdd!)  pfet  L=6.25E-6 W=0.28E-6
T28 ( net142 net225 vdd! vdd!)  pfet  L=6.25E-6 W=0.28E-6
T29 ( net225 net225 vdd! vdd!)  pfet  L=6.25E-6 W=0.28E-6
T30 ( 0 net83 net225 vdd!)  pfet  L=6.25E-6 W=0.28E-6
T31 (net77 net101 net101 0) nfet L=1.73E-6 W=3.43E-6
R32 (net48 net147) R=9.5E5
R33 (net183 net51) R=5.8E1
R34 ( net243 net257)  R=0.3E5
T35 ( net257 net237 vdd! vdd!)  pfet  L=2.31E-6 W=0.28E-6
T36 ( net137 net237 vdd! vdd!)  pfet  L=2.31E-6 W=0.28E-6
T37 ( net65 net257 net137 vdd!)  pfet  L=2.31E-6 W=0.28E-6
R38 (net175 net200) R=0.6E1

